US05244908
(1) Synthesis of 5-[2-(tert-butoxycarbonylamino)ethoxy]imidazo[1,2-a]pyridine (Compound 149)
To a suspension of 60% sodium hydride (oily; 4.8 g, 0.12 mmoles) in DMF (150 ml) was added a solution of 5-chloroimidazo[1,2-a]pyridine (15.26 g, 0.1 moles) and 2-aminoethanol (6.72 g, 0.11 mole) in DMF (120 ml) with stirring at room temperature and the mixture was stirred at the same temperature for 33 hours. To the reaction mixture was added di-tert-butyl dicarbonate (32.74 g, 0.15 moles), followed by stirring at room temperature for 13 hours. After the solvent was distilled off, water (800 ml) was added to the residue, which was extracted twice with ether. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated, and then ether was added. The crystals precipitated were filtered off and washed with ether to obtain 10.77 g of the desired product (38.8%. colorless crystals). As second crystals, 1.31 g or the desired product was obtained (4.7%, colorless crystals).

reactant | sodium hydride | 0.12 mmoles, 4.8 g | [H-].[Na+]
reactant | 5-chloroimidazo[1,2-a]pyridine | 0.1 moles, 15.26 g | ClC1=CC=CC=2N1C=CN2 | C7H5ClN2
reactant | 2-aminoethanol | 0.11 mole, 6.72 g | NCCO | C2H7NO
reactant | di-tert-butyl dicarbonate | 0.15 moles, 32.74 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 5-[2-(tert-butoxycarbonylamino)ethoxy]imidazo[1,2-a]pyridine | 10.77 g, 38.8% | C(C)(C)(C)OC(=O)NCCOC1=CC=CC=2N1C=CN2 | C14H19N3O3
